US04567187
To 19.7 g of methoxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril was added 300 ml of 47%-hydrobromic acid and the mixture was refluxed for 18 hours. The reaction mixture was concentrated under a reduced pressure to dryness. Then to the residue thus obtained was added water and again concentrated under a reduced pressure to dryness. Acetone was added to the crystalline residue and collected by filtration and were recrystallize from methanol. The crystals were suspended in 500 ml of water and the suspension was neutralized with 5%-sodium hydroxide aqueous solution and crystalline precipitates thus formed were collected by filtration and were washed with water. 17.1 Grams of 8-hydroxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril was obtained in amorphous-like crystals. Melting point: 287°-291° C.

reactant | methoxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril | 19.7 g | COC1C(NC2=CC=CC(=C2C1)C(CCN1CCN(CC1)C1=CC=CC=C1)=O)=O | C23H27N3O3
reactant | hydrobromic acid | Br | BrH
reactant | water | O | H2O
product | 8-hydroxy-5-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril | OC=1C=CC(=C2CCC(NC12)=O)C(CCN1CCN(CC1)C1=CC=CC=C1)=O | C22H25N3O3
